US04555519
6-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-3-pyridinecarboxamide
A mixture of 1.58 g of 6-chloronicotinic acid and 1.62 g of 1,1'-carbonyldiimidazole in 30 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Then 1.52 g of 1H-imidazole-1-pentanamine was added. The procedure of Example 36 was followed to conclusion and gave 2.3 g of the compound of the Example as white crystals, mp 110°-112° C.

reactant | 6-chloronicotinic acid | 1.58 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 1,1'-carbonyldiimidazole | 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1H-imidazole-1-pentanamine | 1.52 g | N1(C=NC=C1)CCCCCN | C8H15N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-3-pyridinecarboxamide | 2.3 g | ClC1=CC=C(C=N1)C(=O)NCCCCCN1C=NC=C1 | C14H17ClN4O
